US09024027B2
A mixture of methyl 2-(6-(methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate (0.523 g, 1.742 mmol), di-tert-butyl dicarbonate (0.494 g, 2.264 mmol) and DMAP (0.277 g, 2.264 mmol) in DCM (50 ml) was stirred at room temperature for 2 hours. The mixture was diluted with DCM and washed twice with aqueous 5% NaHCO3 and twice with 1N HCl. The organic phase was dried over sodium sulfate and the solvent was removed affording methyl 2-(6-(N-(tert-butoxycarbonyl)-methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate (0.660 g, 1.648 mmol, 95% yield). MS/ESI+ 422.8 [MNa]+. This product was used without purification.

reactant | methyl 2-(6-(methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate | 1.742 mmol, 0.523 g | CS(=O)(=O)NC1=CC2=C(N(C(O2)=O)CC(=O)OC)C=C1 | C11H12N2O6S
reactant | di-tert-butyl dicarbonate | 2.264 mmol, 0.494 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 2.264 mmol, 0.277 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-(6-(N-(tert-butoxycarbonyl)-methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate | 1.648 mmol, 0.660 g, 95% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CC2=C(N(C(O2)=O)CC(=O)OC)C=C1 | C16H20N2O8S
